*
R1 N110 N098 15
R2 N110 N099 10
R3 N110 N100 15
R4 N110 N082 5
R5 N115 N110 10
R6 N120 N110 15
R7 N120 N110 10
R8 0 N115 5
R9 0 N120 10
R10 0 N120 15
R11 0 N120 10
R12 N125 0 10
R13 N125 0 15
R14 N125 0 10
R15 N098 N099 10
R16 N099 N100 15
R17 N100 N082 20
R18 0 N130 15
R19 N130 N131 10
R20 N131 0 5
V1 N098 0 SINE(0 10 1k)
R21 N111 N081 15
R22 N111 N101 10
R23 N111 N102 15
R24 N111 N086 5
R25 N116 N111 10
R26 N121 N111 15
R27 N121 N111 10
R28 0 N116 5
R29 0 N121 10
R30 0 N121 15
R31 0 N121 10
R32 N126 0 10
R33 N126 0 15
R34 N126 0 10
R35 N081 N101 10
R36 N101 N102 15
R37 N102 N086 20
R38 0 N132 15
R39 N132 N133 10
R40 N133 0 5
R41 N073 N081 15
R42 N073 N080 10
R43 N073 N079 15
R44 N073 N078 5
R45 N068 N073 10
R46 N063 N073 15
R47 N063 N073 10
R48 N032 N068 5
R49 N032 N063 10
R50 N032 N063 15
R51 N032 N063 10
R52 N058 N032 10
R53 N058 N032 15
R54 N058 N032 10
R55 N081 N080 10
R56 N080 N079 15
R57 N079 N078 20
R58 N032 N049 15
R59 N049 N048 10
R60 N048 N032 5
R61 N074 N085 15
R62 N074 N084 10
R63 N074 N083 15
R64 N074 N082 5
R65 N069 N074 10
R66 N064 N074 15
R67 N064 N074 10
R68 N032 N069 5
R69 N032 N064 10
R70 N032 N064 15
R71 N032 N064 10
R72 N059 N032 10
R73 N059 N032 15
R74 N059 N032 10
R75 N085 N084 10
R76 N084 N083 15
R77 N083 N082 20
R78 N032 N051 15
R79 N051 N050 10
R80 N050 N032 5
R81 N112 N085 15
R82 N112 N103 10
R83 N112 N104 15
R84 N112 N090 5
R85 N117 N112 10
R86 N122 N112 15
R87 N122 N112 10
R88 0 N117 5
R89 0 N122 10
R90 0 N122 15
R91 0 N122 10
R92 N127 0 10
R93 N127 0 15
R94 N127 0 10
R95 N085 N103 10
R96 N103 N104 15
R97 N104 N090 20
R98 0 N134 15
R99 N134 N135 10
R100 N135 0 5
R101 N113 N089 15
R102 N113 N105 10
R103 N113 N106 15
R104 N113 N094 5
R105 N118 N113 10
R106 N123 N113 15
R107 N123 N113 10
R108 0 N118 5
R109 0 N123 10
R110 0 N123 15
R111 0 N123 10
R112 N128 0 10
R113 N128 0 15
R114 N128 0 10
R115 N089 N105 10
R116 N105 N106 15
R117 N106 N094 20
R118 0 N136 15
R119 N136 N137 10
R120 N137 0 5
R121 N075 N089 15
R122 N075 N088 10
R123 N075 N087 15
R124 N075 N086 5
R125 N070 N075 10
R126 N065 N075 15
R127 N065 N075 10
R128 N032 N070 5
R129 N032 N065 10
R130 N032 N065 15
R131 N032 N065 10
R132 N060 N032 10
R133 N060 N032 15
R134 N060 N032 10
R135 N089 N088 10
R136 N088 N087 15
R137 N087 N086 20
R138 N032 N053 15
R139 N053 N052 10
R140 N052 N032 5
R141 N076 N093 15
R142 N076 N092 10
R143 N076 N091 15
R144 N076 N090 5
R145 N071 N076 10
R146 N066 N076 15
R147 N066 N076 10
R148 N032 N071 5
R149 N032 N066 10
R150 N032 N066 15
R151 N032 N066 10
R152 N061 N032 10
R153 N061 N032 15
R154 N061 N032 10
R155 N093 N092 10
R156 N092 N091 15
R157 N091 N090 20
R158 N032 N055 15
R159 N055 N054 10
R160 N054 N032 5
R161 N114 N093 15
R162 N114 N107 10
R163 N114 N108 15
R164 N114 N109 5
R165 N119 N114 10
R166 N124 N114 15
R167 N124 N114 10
R168 0 N119 5
R169 0 N124 10
R170 0 N124 15
R171 0 N124 10
R172 N129 0 10
R173 N129 0 15
R174 N129 0 10
R175 N093 N107 10
R176 N107 N108 15
R177 N108 N109 20
R178 0 N138 15
R179 N138 N139 10
R180 N139 0 5
R181 N077 N097 15
R182 N077 N096 10
R183 N077 N095 15
R184 N077 N094 5
R185 N072 N077 10
R186 N067 N077 15
R187 N067 N077 10
R188 N032 N072 5
R189 N032 N067 10
R190 N032 N067 15
R191 N032 N067 10
R192 N062 N032 10
R193 N062 N032 15
R194 N062 N032 10
R195 N097 N096 10
R196 N096 N095 15
R197 N095 N094 20
R198 N032 N057 15
R199 N057 N056 10
R200 N056 N032 5
R201 N017 N001 15
R202 N017 N002 10
R203 N017 N003 15
R204 N017 N004 5
R205 N022 N017 10
R206 N027 N017 15
R207 N027 N017 10
R208 N032 N022 5
R209 N032 N027 10
R210 N032 N027 15
R211 N032 N027 10
R212 N033 N032 10
R213 N033 N032 15
R214 N033 N032 10
R215 N001 N002 10
R216 N002 N003 15
R217 N003 N004 20
R218 N032 N038 15
R219 N038 N039 10
R220 N039 N032 5
R221 N018 N004 15
R222 N018 N005 10
R223 N018 N006 15
R224 N018 N007 5
R225 N023 N018 10
R226 N028 N018 15
R227 N028 N018 10
R228 N032 N023 5
R229 N032 N028 10
R230 N032 N028 15
R231 N032 N028 10
R232 N034 N032 10
R233 N034 N032 15
R234 N034 N032 10
R235 N004 N005 10
R236 N005 N006 15
R237 N006 N007 20
R238 N032 N040 15
R239 N040 N041 10
R240 N041 N032 5
R281 N019 N007 15
R282 N019 N008 10
R283 N019 N009 15
R284 N019 N010 5
R285 N024 N019 10
R286 N029 N019 15
R287 N029 N019 10
R288 N032 N024 5
R289 N032 N029 10
R290 N032 N029 15
R291 N032 N029 10
R292 N035 N032 10
R293 N035 N032 15
R294 N035 N032 10
R295 N007 N008 10
R296 N008 N009 15
R297 N009 N010 20
R298 N032 N042 15
R299 N042 N043 10
R300 N043 N032 5
R301 N020 N010 15
R302 N020 N011 10
R303 N020 N012 15
R304 N020 N013 5
R305 N025 N020 10
R306 N030 N020 15
R307 N030 N020 10
R308 N032 N025 5
R309 N032 N030 10
R310 N032 N030 15
R311 N032 N030 10
R312 N036 N032 10
R313 N036 N032 15
R314 N036 N032 10
R315 N010 N011 10
R316 N011 N012 15
R317 N012 N013 20
R318 N032 N044 15
R319 N044 N045 10
R320 N045 N032 5
R361 N021 N013 15
R362 N021 N014 10
R363 N021 N015 15
R364 N021 N016 5
R365 N026 N021 10
R366 N031 N021 15
R367 N031 N021 10
R368 N032 N026 5
R369 N032 N031 10
R370 N032 N031 15
R371 N032 N031 10
R372 N037 N032 10
R373 N037 N032 15
R374 N037 N032 10
R375 N013 N014 10
R376 N014 N015 15
R377 N015 N016 20
R378 N032 N046 15
R379 N046 N047 10
R380 N047 N032 5
.tran 0 1m 0 1u
.backanno
.end

